US06348474B1
2-((N-Acetyl)-(2,4-dichlorobenzyl)amino)terephthalic acid
A mixture of dimethyl 2-((N-acetyl)-(2,4-dichlorobenzyl)amino)terephthalate (2.05 g) and 10% aqueous sodium hydroxide solution (8.00 g) in methanol (20 ml) was heated at 60° C. for 1 hr. After cooling, concentrated hydrochloric acid was added to acidify the reaction mixture and the precipitated solid was collected by filtration. The solid was washed with water (60 ml) and dried to give the objective compound (1.87 g) as white crystals.

reactant | dimethyl 2-((N-acetyl)-(2,4-dichlorobenzyl)amino)terephthalate | 2.05 g | C(C)(=O)N(C1=C(C(=O)OC)C=CC(=C1)C(=O)OC)CC1=C(C=C(C=C1)Cl)Cl | C19H17Cl2NO5
reactant | sodium hydroxide | 8.00 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 2-((N-Acetyl)-(2,4-dichlorobenzyl)amino)terephthalic acid | 1.87 g | C(C)(=O)N(C1=C(C(=O)O)C=CC(=C1)C(=O)O)CC1=C(C=C(C=C1)Cl)Cl | C17H13Cl2NO5
